US07727988B2
5-(6-methyl-2-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E30)
A solution of 5-(6-methyl-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep50, 171 mg, 0.72 mmol), (1S,5R)-3-(3-chloro-propyl)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep13, 240 mg, 0.79 mmol), and DIPEA (278 μl, 2.2 mmol) in DMSO (3 mL) was heated at 125° C. for 3 hours in a microwave oven. Water was added and the product was extracted with ethyl acetate. The crude was purified by preparative LC/MS followed by SCX cartridge washing with MeOH and eluting with MeOH/NH3 95:5 The free base obtained was treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder. (40 mg)

reactant | 5-(6-methyl-pyridin-2-yl)-1H-pyrimidine-2,4-dione hydrochloride | 0.72 mmol, 171 mg | Cl.CC1=CC=CC(=N1)C=1C(NC(NC1)=O)=O
reactant | (1S,5R)-3-(3-chloro-propyl)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.79 mmol, 240 mg | ClCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | C15H17ClF3N
reactant | DIPEA | 2.2 mmol, 278 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 2 eq | O1CCOCC1 | C4H8O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | 5-(6-methyl-2-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.CC1=CC=CC(=N1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H25F3N4O2.2ClH/c1-16-4-2-5-21(29-16)20-14-32(23(34)30-22(20)33)11-3-10-31-13-19-12-24(19,15-31)17-6-8-18(9-7-17)25(26,27)28;;/h2,4-9,14,19H,3,10-13,15H2,1H3,(H,30,33,34);2*1H/t19-,24+;;/m0../s1
